US07375134B2
To a solution of (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid (1.17 g, 2.86 mmol) in THF (20 mL) at −10° C. were added 4-methylmorpholine (0.315 mL, 2.86 mmol) and isobutyl chloroformate (0.371 mL, 2.86 mmol). The reaction mixture was stirred for 10 minutes, whereupon aminoacetonitrile hydrochloride (0.318 g, 3.43 mmol) was added, followed by 4-methylmorpholine (0.315 mL, 2.86 mmol). The solution was stirred for 90 minutes. Ethyl acetate (30 mL) and aqueous disodium phosphate (30 mL) were added. The organic phase was separated, washed with brine, dried over MgSO4, and evaporated to dryness. The product was purified on a short plug of silica gel (10-50% ethyl acetate/hexane gradient elution) to give (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid cyanomethylamide.

reactant | (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid | 2.86 mmol, 1.17 g | BrC1=CC=C(C=C1)[C@@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CC(C)C | C19H21BrFNO2
reactant | 4-methylmorpholine | 2.86 mmol, 0.315 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.86 mmol, 0.371 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | aminoacetonitrile hydrochloride | 3.43 mmol, 0.318 g | Cl.NCC#N
reactant | 4-methylmorpholine | 2.86 mmol, 0.315 mL | CN1CCOCC1 | C5H11NO
reactant | disodium phosphate | 30 mL | P(=O)([O-])([O-])O.[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid cyanomethylamide | C(#N)CNC([C@H](CC(C)C)N[C@H](C1=CC=C(C=C1)F)C1=CC=C(C=C1)Br)=O | C21H23BrFN3O
